US08957064B2
3-fluoro-6-phenyl-7-(4-{[3-(5-pyridin-2-yl-1,2,4-triazol-3-yl)azetidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine
This compound was prepared in analogy by reacting 90 mg (0.28 mmol) 4-(3-fluoro-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde with 93 mg (0.34 mmol) 2-(5-azetidine-3-yl-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt according to the procedure in example 1. After four and a half hours the reaction mixture was worked up and purified in the usual way as described in example 1. 81 mg of the desired product were obtained.

reactant | 4-(3-fluoro-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.28 mmol, 90 mg | FC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12FN3O
reactant | 2-(5-azetidine-3-yl-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt | 0.34 mmol, 93 mg | Cl.N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1
product | 3-fluoro-6-phenyl-7-(4-{[3-(5-pyridin-2-yl-1,2,4-triazol-3-yl)azetidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine | 81 mg | FC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C29H23FN8
